US05914328
76a. 3-((1-BOC-2-(R)-pyrrolidinyl)methoxy)quinoline
A 2.77 g sample of (R)-1-t-butoxycarbonyl-2-pyrrolidinemethanol and 3 g of 3-hydroxyquinoline were reacted with triphenylphosphine and DEAD in 100 mL of THF according to the procedure of Example 14a, to give 2.5 g of the title compound. MS (DCI/NH3) m/e 329 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 8.67 (d, J=3 Hz 1H), 8.4 (d, J=7 Hz, 1H), 7.72 (dd, J=7, 1 Hz 1H), 7.56-7.40 (m, 3H), 4.24-3.94 (m, 3 H), 3.42 (bs 2H), 2.11-1.94 (m 3H), 1.92-1.86 (m 1H), 1.48 (s 9H)

reactant | (R)-1-t-butoxycarbonyl-2-pyrrolidinemethanol | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CO | C10H19NO3
reactant | 3-hydroxyquinoline | 3 g | OC=1C=NC2=CC=CC=C2C1 | C9H7NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-((1-BOC-2-(R)-pyrrolidinyl)methoxy)quinoline | 2.5 g | C(=O)(OC(C)(C)C)N1[C@H](CCC1)COC=1C=NC2=CC=CC=C2C1 | C19H24N2O3
